US05444071
(Example 2): 4'-[(2-Methylquinolin-4-yloxy)methyl]biphenyl-2-carboxylic acid hydrochloride, m.p. 184°-186° C.; NMR (d6 -DMSO): 2.93(s,3H), 5.67(s,2H), 7.38-7.72(m,8H), 7.77(dd,1H), 7.84(dd,1H), 8.08(dt,1H), 8.29(d,1H), 8.33(d,1H); mass spectrum (-ve FAB, DMSO/m-nitrobenzyl alcohol)(NBA): 368 (M-H)- ; microanalysis found: C,71.2; H,5.0; N,3.6; Cl, 8.6%, C24H19NO3.HCl requires:C,71.0; H,5.0; N,3.5; Cl,8.7%; starting from methyl 4'-[(2-methylquinolin-4-yloxy)methyl]biphenyl-2-carboxylate, obtained as a solid, m p 146° C.; NMR: 2.71(s,3H), 3.67(s,3H), 5.33(s,2H), 6.74(s,1H), 7.3-7.6(complex m,8H), 7.68(dt,1H), 7.87(dd,1H), 7.98(d,1H), 8.23(dd,1H); itself obtained from 2-methyl-4-quinolone, using analogous procedures to those described in Example 1;

reactant | 4'-[(2-Methylquinolin-4-yloxy)methyl]biphenyl-2-carboxylic acid hydrochloride | Cl.CC1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O
reactant | DMSO m-nitrobenzyl alcohol | CS(=O)C.[N+](=O)([O-])C=1C=C(CO)C=CC1
reactant | methyl 4'-[(2-methylquinolin-4-yloxy)methyl]biphenyl-2-carboxylate | CC1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C25H21NO3
product | 2-methyl-4-quinolone | CC1=NC2=CC=CC=C2C(C1)=O | C10H9NO
